US08791132B2
A solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), benzo[b]thien-2-ylboronic acid (103 mg, 0.578 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-dimethoxyethane (4 mL)-water (2 mL) was purged with nitrogen followed by addition of Pd(PPh3)4 (16 mg, 0.0147 mmol). The reaction mixture was stirred at 90° C. for 45 min. The solvent was removed under reduced pressure, residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse phase HPLC to yield 5-(2-(benzo[b]thiophen-2-yl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.2 (d, 1H), 7.5 (d, 1H), 7.38 (s, 1H), 7.2-7.3 (m, 3H), 7.1 (d, 1H), 7.04 (d, 1H), 4.4 (m, 2H), 3.6 (m, 2H), 3.2 (m, 2H), 3.1 (s, 3H), 2.9 (m, 2H), 2.7 (m, 2H), 2.41 (s, 3H), 2.3 m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | benzo[b]thien-2-ylboronic acid | 0.578 mmol, 103 mg | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0147 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(benzo[b]thiophen-2-yl)cyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | S1C2=C(C=C1C1=C(CCC1)N1C3=C(C=4C=C(C=CC14)C)CN(CC3)C)C=CC=C2 | C26H26N2S
